US04886835
Bromine (1.5 cc) is added in the course of 5 minutes at a temperature in the region of 20° C. to a stirred solution of 5-acetyl-2,2-dimethyl-1,3-benzodioxole (5.8 g) in carbon tetrachloride (100 cc), and the mixture is left with stirring for 15 hours at the same temperature. The reaction mixture is taken up with water (150 cc). The organic phase is separated off after settling has taken place, dried over anhydrous magnesium sulphate, filtered and evaporated to dryness at 40° C. under reduced pressure (20 mm Hg; 2.7 kPa). 5-(2-Bromoacetyl)-2,2-dimethyl-1,3-benzodioxole (7.1 g) is obtained, and is used in the crude state in the subsequent syntheses.

reactant | Bromine | 1.5 cc | BrBr | Br2
reactant | 5-acetyl-2,2-dimethyl-1,3-benzodioxole | 5.8 g | C(C)(=O)C1=CC2=C(OC(O2)(C)C)C=C1 | C11H12O3
reactant | water | 150 cc | O | H2O
solvent | carbon tetrachloride | 100 cc | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-(2-Bromoacetyl)-2,2-dimethyl-1,3-benzodioxole | 7.1 g | BrCC(=O)C1=CC2=C(OC(O2)(C)C)C=C1 | C11H11BrO3
